US07919491B2
[(7S,9aS)-8-(phenylmethyl)octahydropyrazino[2,1-c][1,4]oxazin-7-yl]methanol (D127)
To a solution of (7S,9aS)-7-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-8-(phenylmethyl)octahydropyrazino[2,1-c][1,4]oxazine (D126, 276 mg, 0.73 mmol) in MeOH (24 ml), cooled to 0° C., was added dropwise 12 N HCl (1.4 mL). The reaction mixture was stirred for 2 hrs at r.t., then it was put in the freezer for 12 hrs. The reaction mixture was warmed-up to r.t., further HCl was added (0.7 ml) and the reaction mixture was stirred for 2 more hrs. The mixture was filtered on a SCX cartridge washing with methanol and then with 2M methanolic ammonia. The fractions eluted with ammonia were combined and evaporated to dryness to give the title compound as a colourless oil (150 mg, y=78%).

reactant | (7S,9aS)-7-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-8-(phenylmethyl)octahydropyrazino[2,1-c][1,4]oxazine | 0.73 mmol, 276 mg | CC(C)(C)[Si](OC[C@H]1N(C[C@H]2COCCN2C1)CC1=CC=CC=C1)(C)C | C21H36N2O2Si
reactant | HCl | 12 N, 1.4 mL | Cl | ClH
solvent | MeOH | 24 ml | CO | CH4O
product | [(7S,9aS)-8-(phenylmethyl)octahydropyrazino[2,1-c][1,4]oxazin-7-yl]methanol | 150 mg, 78% | C1(=CC=CC=C1)CN1C[C@H]2COCCN2C[C@H]1CO | C15H22N2O2
